US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (101 mg, 46%) was prepared as a light, yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.6 (br s, 1H), 8.27 (s, 1H), 8.16 (s, 1H), 7.87 (d, J=7.6 Hz, 1H), 7.73 (d, J=7.1 Hz, 1H), 7.52-7.28 (m, 5H), 7.11 (d, J=15.3 Hz, 1H), 5.11-4.89 (m, 2H), 3.55 (br s, 2H), 3.37-3.23 (m, 4H), 3.14 (s, 2H), 3.10-2.92 (m, 5H), 2.72 (s, 3H), 2.42 (s, 3H);

reactant | (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCN(CC1)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)acrylamide hydrochloride | 101 mg, 46% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC1=C(C2=C(S1)C=CC=C2)C)C)CN2CCN(CC2)C | InChI=1S/C25H31N5OS.ClH/c1-18-21-6-4-5-7-22(21)32-23(18)17-29(3)24(31)9-8-19-14-20(25(26)27-15-19)16-30-12-10-28(2)11-13-30;/h4-9,14-15H,10-13,16-17H2,1-3H3,(H2,26,27);1H/b9-8+;
